US08378118B2
Propane-2-sulfonic acid {3-[4-(7-methoxy-6-methyl-indan-4-ylmethyl)-3,5-dimethyl-pyrazol-1-yl]-propionyl}-amide
To the suspension of 60% Sodium hydride (76 mg, 0.0019 mole) in Tetrahydrofuran (2 ml), the solution of 3-[4-(7-Methoxy-6-methyl-indan-4-ylmethyl)-3,5-dimethyl-pyrazol-1-yl]-propionamide (500 mg, 0.00146 mole) in Tetrahydrofuran (5 ml) was added at room temperature and stirred for 20 minutes. A solution of Isopropyl sulfonyl chloride (0.18 ml, 0.0016 moles) in Tetrahydrofuran (3 ml) was added at 0-5° C. and stirred at 15-25° C. for 3 hours. Tetrahydrofuran was distilled under vacuum, dilute hydrochloric acid (20 ml) was added to the reaction mixture and extracted with Ethyl Acetate (50 ml). The Ethyl acetate layer was dried over Sodium sulphate and distilled under vacuum to give a crude product which was purified by column chromatography using Ethylacetate as a mobile phase. The fractions were distilled to give 80 mg of desired compound as a solid.

reactant | Sodium hydride | 0.0019 mole, 76 mg | [H-].[Na+]
reactant | 3-[4-(7-Methoxy-6-methyl-indan-4-ylmethyl)-3,5-dimethyl-pyrazol-1-yl]-propionamide | 0.00146 mole, 500 mg | COC=1C(=CC(=C2CCCC12)CC=1C(=NN(C1C)CCC(=O)N)C)C | C20H27N3O2
reactant | Isopropyl sulfonyl chloride | 0.0016 moles, 0.18 ml | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | Tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | Propane-2-sulfonic acid {3-[4-(7-methoxy-6-methyl-indan-4-ylmethyl)-3,5-dimethyl-pyrazol-1-yl]-propionyl}-amide | 80 mg, Yield: 12.2% | COC=1C(=CC(=C2CCCC12)CC=1C(=NN(C1C)CCC(=O)NS(=O)(=O)C(C)C)C)C | C23H33N3O4S
